US08455477B2
To a solution of 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid (14.0 mg, 0.051 mmol) and 1,1′-carbonyldiimidazole (13.0 mg, 0.077 mmol) in N,N-dimethylformamide (2 ml) was added 28% ammonium hydroxide solution (0.072 ml, 0.51 mmol). After 30 minutes the reaction mixture was purified directly by preparative HPLC Reverse phase (C-18), eluting with acetonitrile/water+0.05% TFA to give 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine-3-carboxamide as gray solids. 1H NMR (500 MHz, DMSO-d6) δ 8.73 (s, 1H); 8.33 (s, 1H); 8.25 (s, 1H); 8.06 (s, 1H); 7.61 (s, 1H); 7.29 (s, 1H); 7.15 (s, 1H); 4.07 (s, 3H); 3.87 (s, 3H). LRMS (ESI) calculated for C13K4N5O2 [M+H]−, 272.1 found 272.0.

reactant | 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid | 0.051 mmol, 14.0 mg | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C(=O)O | C13H12N4O3
reactant | 1,1′-carbonyldiimidazole | 0.077 mmol, 13.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 0.51 mmol, 0.072 ml | [OH-].[NH4+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine-3-carboxamide | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C(=O)N | C13H13N5O2
